US06632814B1
2-[Benzyl-(4-bromo-2-nitro-phenyl)-amino]-ethanol
A mixture of 2,5-dibromonitrobenzene (40 g) and N-benzylethanolamine (40.4 ml) in 1-butanol (160 ml) was heated at reflux for 18 hours then a further portion (20.2 ml) of N-benzylethanolamine was added and refluxing was continued for a further hour. The reaction mixture was evaporated under reduced pressure (2.7 kPa) at 40° C. and the residue was treated with water (500 ml) and the mixture was then extracted three times with diethyl ether (250 ml). The combined organic extracts were washed with hydrochloric acid (180 ml, 1N), then with an aqueous sodium hydrogen carbonate solution (20 ml, 5%), then twice with distilled water (50 ml), then dried over magnesium sulphate and then evaporated under reduced pressure (2.7 kPa) at 40° C. The resulting brown oil (47.1 g) was subjected to flash chromatography on silica (0,040-0,063 mm) eluting with dichloromethane to give the title compound (19.66 g) as a red oil. 1H NMR, 400 MHz, (CD3)2SO: δ3.1 (t, 2H); 3.5 (q, 2H); 4.5 (s, 2H); 4.6 (t, 1H); 7.3 (m, 6H); 7.6 (dd, J=8 Hz and J=1.5 Hz, 1H); 8 (d, J=1.5 Hz, 1H). MS (EI): M+ 352 and 350 (5%), 321 and 319 (20%), 91 (100%).

reactant | 2,5-dibromonitrobenzene | 40 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | N-benzylethanolamine | 40.4 ml | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | N-benzylethanolamine | 20.2 ml | C(C1=CC=CC=C1)NCCO | C9H13NO
solvent | 1-butanol | 160 ml | C(CCC)O | C4H10O
product | 2-[Benzyl-(4-bromo-2-nitro-phenyl)-amino]-ethanol | 19.66 g | C(C1=CC=CC=C1)N(CCO)C1=C(C=C(C=C1)Br)[N+](=O)[O-] | C15H15BrN2O3
